2157-03-21 09:32:00 Physician Attending Progress Note
Chief Complaint: hyponatremia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women with h/o CAD, s/p PCI and in stent restenosis.  recent
   admit for CHF.  Admitted with Chest pain, feeling poorly, weight gain.
   Came to ED where Na found to be 112.  Was oriented but had slight
   psychomotor retardation.
   24 Hour Events:
   Allergies:
   Oxybutynin
   dry mouth;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-21**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 63 (54 - 69) bpm
   BP: 174/64(94) {150/48(76) - 174/64(94)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
                  Total In:
                  310 mL
   PO:
                  60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    325 mL
   Urine:
   325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   311 K/uL
   83 mg/dL
   1.7 mg/dL
   15 mEq/L
   5.0 mEq/L
   24 mg/dL
   88 mEq/L
   111 mEq/L
   27.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2157-3-21**]  05:28 AM
   WBC
   9.9
   Hct
   27.9
   Plt
   311
   Cr
   1.7
   TropT
   <0.01
   Glucose
   83
   Other labs: PT / PTT / INR:12.0/28.8/1.0, CK / CKMB /
   Troponin-T:65//<0.01, ALT / AST:17/30, Alk Phos / T Bili:109/0.4,
   Amylase / Lipase:/66, Albumin:3.3 g/dL, LDH:228 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY):  Serum Na 11, urine Na is
   low.  urine osm 330 is inappropriately high.  TSH normal.  Will give
   lasix
   and salt tablets to help her volume status and correct hyponatremia.
   Chest pain:  no evidence of acute myocardial ischemia.
   abdominal distension:  gaseous distension.   Bowel regimen.
   acute on chronic diastolic heart failure:  diurese.
   chronic renal failure:  Creatinine is improved from normal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-3-21**] 01:11 AM
   18 Gauge - [**2157-3-21**] 05:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2157-03-22 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started hypertonic at 18cc/hr through peripheral IV per nephrology
   consult recs
   - Neprhology also rec renal ultrasound, which will be performed on [**3-22**]
   - Portable abdominal film performed and showed non-specific bowel gas
   pattern
   - lasix x 3 doses
   - received every six hour sodium checks
   Patient denies chest pain or dyspnea. No complaint of further
   constipation. Abdominal discomfort has resolved. Tremulous and
   confusion has resolved. Resolution of nausea.
   Allergies:
   Oxybutynin (dry mouth)
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2157-3-21**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-3-21**] 09:20 PM
   Flowsheet Data as of  [**2157-3-22**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 64 (55 - 71) bpm
   BP: 154/46(75) {132/42(66) - 174/89(105)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
             Total In:
                                                                  1,080 mL
                                                                    125 mL
   PO:
                                                                    590 mL
   TF:
   IVF:
                                                                    240 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                  1,380 mL
   Urine:
                                                                  2,150 mL
                                                                  1,380 mL
   Balance:
                                                                 -1,070 mL
                                                                 -1,255 mL
   Respiratory support
   O2 Delivery Device: 2 L nasal cannula
   SpO2: 93%
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa moist, oropharynx without erythema
   NECK: Supple, no LAD appreciated
   PULM: Rare bibasilar coarse crackles, dullness to percussion at both
   lung bases
   CARD: RR, nl S1, nl S2, II/VI holosystolic murmur, no chest pain
   elicited with palpation of chest wall
   ABD: BS+, soft, distended ventral hernia, tympanitic, non-tender, no
   rebound or guarding
   EXT: 3+ pitting edema of LE bilaterally with venous stasis changes and
   broken skin
   NEURO: Oriented to "[**Hospital3 **] Intensive Care", date, year, current
   president, most recent prior president. Able to recite days of week
   backward with fluidity. Also able to spell
WORLD
 backwards quickly
   without error.
   Labs / Radiology
   298 K/uL
   9.5 g/dL
   72 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.4 mEq/L
   23 mg/dL
   94 mEq/L
   119 mEq/L
   27.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2157-3-21**]  05:28 AM
                             [**2157-3-21**]  02:15 PM
                             [**2157-3-22**]  03:45 AM
   WBC
   9.9
   8.8
   Hct
   27.9
   27.4
   Plt
   311
   298
   Cr
   1.7
   1.8
   1.7
   TropT
   <0.01
   <0.01
   Glucose
   83
   102
   72
   Other labs: PT / PTT / INR:12.7/40.5/1.1, CK / CKMB /
   Troponin-T:70//<0.01, ALT / AST:17/30, Alk Phos / T Bili:109/0.4,
   Amylase / Lipase:/66, Albumin:3.3 g/dL, LDH:228 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   81 yo F with CAD s/p past PCI, CKD, hypertension, recent diagnosis of
   heart failure, was discharged from the hospital on [**2157-3-11**] after a
   presentation for chest pain. Presents again with chest pain, LE edema,
   and new finding of severe hyponatremia.
   # Hyponatremia:
   Sodium at presentation was 112. Most recent prior set of labs from
   discharge on [**2157-3-11**] revealed sodium of 135, which makes this an acute
   episode of hyponatremia. Sodium level rose to 115 on afternoon of [**3-21**]
   and was 119 @ 0400 this AM and then 124 @ 1000 this AM. Acute rise if
   slightly faster than we would like; however, given that her drop in
   sodium was acute since [**2157-3-11**], rise at this rate is not as
   concerning. We will continue to monitor and give back free water as
   needed to slow rate of rise. Likely a hypervolemic hyponatremia given
   findings of peripheral edema, pulmonary crackles, and pleural
   effusions. Asymptomatic from neurologic standpoint. Tremulousness has
   resolved. No more nausea since morning of [**3-21**]. No medication changes
   that would explain this acute drop in serum sodium. Most likely is
   multifactorial with predominant component being heart failure. Also
   likely to be exacerbated by acute kidney injury. Pseudohyponatremia
   ruled out at presentation. TSH was measured and was normal. Given
   hyponatremia in combination with hyperkalemia, we considered adrenal
   insufficiency in differential; however, AM cortisol yesterday was 19.6.
   - Discontinue hypertonic saline
   - Continue fluid restrict to 1 L daily
   - Serum sodium every six hours
   - Urine lytes every six hours
   - Measure serum osmolality
   - Appreciate ongoing nephrology input
   # Constipation / abdominal pain:
   Patient having normal bowel movements now and has resolved abdominal
   discomfort. Liver enzymes were normal. Lipase was slightly elevated at
   66. Greater than one week of constipation prior to presentation with
   only two days of normal bowel movements prior to presentation. Must
   keep in mind that loose BM morning of presentation to ED on [**2157-3-20**]
   may point to liquid stool around a fecal impaction.
   - Bowel regimen
   - Monitor stool output
   # Chest pain:
   Patient with a past history of anginal chest pain; however, she reports
   that chest pain at presentation this time was different. Recent
   presentation for chest pain, for which she ruled-out for MI with three
   sets of negative cardiac enzymes. Also had a low probability V/Q scan
   on [**2157-3-10**]. Since admission here she has had no chest pain and has had
   three sets of negative cardiac enzymes (trop <0.01).
   - Monitor on telemetry
   # Diastolic heart failure:
   By recent ECHO on [**2157-3-10**] has moderate LV diastolic dysfunction.
   Additionally had BNP of [**Numeric Identifier 6935**] on [**2157-3-9**] which has improved to BNP of
   5679 upon admission here.
   - Continue home metoprolol
   - Continue furosemide diuresis once rate of change of serum sodium is
   more stable
   # Chronic renal failure:
   Patient with baseline Cr of 1.8 - 2.3 per review of records. At this
   admission Cr is 1.7, which is stable from admission.
   - Continue to trend with correction of hyponatremia
   # Coronary artery disease / Hypertension / Hyperlipidemia:
   Attempting to rule out CAD as cause for current chest pain episode.
   - Continue aspirin, clopidogrel, amlodipine, metoprolol, atorvastatin
   ICU Care
   Nutrition: Cardiac diet, free water restricted to 1 L daily
   Glycemic Control: None needed at this time
   Lines:  20 Gauge - [**2157-3-21**] 01:11 AM (Will need additional access)
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: PPI
   Communication:  With patient and her husband
   [**Name (NI) 36**] status: FULL (addressed with patient at time of admission)
   Disposition: Ongoing ICU care

2157-03-22 12:15:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women with CRF, CAD, diastolic CHF, presented with severe
   hyponatremia.  Tremulousness imrpoved, no further nausea.  Started to
   put out lots of fluid this morning, so stopped lasix.  So started
   diuresing by self with Na this AM of 124.
   24 Hour Events:
 EKG - At [**2157-3-21**] 01:36 PM
   Allergies:
   Oxybutynin
   dry mouth;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2157-3-21**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-3-21**] 09:20 PM
   Other medications:
   omeprazole
   asa
   plavix
   statin
   colace
   lopressor
   norvasc
   senna
   lasix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Heme / Lymph: No(t) Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2157-3-22**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 66 (55 - 73) bpm
   BP: 144/51(75) {132/41(66) - 165/89(105)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
             Total In:
                                                                  1,080 mL
                                                                    251 mL
   PO:
                                                                    590 mL
             TF:
   IVF:
                                                                    240 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                  1,880 mL
   Urine:
                                                                  2,150 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,070 mL
                                                                 -1,629 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : mild basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   298 K/uL
   72 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.4 mEq/L
   23 mg/dL
   94 mEq/L
   124 mEq/L
   27.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2157-3-21**]  05:28 AM
                             [**2157-3-21**]  02:15 PM
                             [**2157-3-22**]  03:45 AM
   WBC
   9.9
   8.8
   Hct
   27.9
   27.4
   Plt
   311
   298
   Cr
   1.7
   1.8
   1.7
   TropT
   <0.01
   <0.01
   Glucose
   83
   102
   72
   Other labs: PT / PTT / INR:12.7/40.5/1.1, CK / CKMB /
   Troponin-T:70//<0.01, ALT / AST:17/30, Alk Phos / T Bili:109/0.4,
   Amylase / Lipase:/66, Albumin:3.3 g/dL, LDH:228 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: serium osm 261
   urine cr 77, urine Na 16, urine 292
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY):  Lasix and hypertonic
   saline stopped.   Continue free water restriction
   chest pain:  Has ruled out for MI.  No further Chest pain.
   chronic renal failure:  Cr. stable
   CAD:  continue meds
   Can possibly call out later if Na stabilizes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-3-21**] 05:15 AM
   20 Gauge - [**2157-3-21**] 09:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-03-23 07:13:00 Physician Resident Progress Note
Chief Complaint: Hyponatremia
   24 Hour Events:
   - AM Na 119-124, serum osm 261
   - Renal recs d/c hypertonic saline, every six hour sodium checks, no
   salt tabs, no lasix diuresis
   - Renal U/S no hydronephrosis or stone,unable to assess for RAS
   - Will likely need outpt sleep study for sleep apnea (nighttime oxygen
   desats)
   Allergies:
   Oxybutynin
   dry mouth;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-22**] 08:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-3-23**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 60 (55 - 75) bpm
   BP: 155/42(73) {142/35(64) - 171/63(108)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
                  Total In:
                                                                    671 mL
                  PO:
                                                                    420 mL
   TF:
   IVF:
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                    720 mL
   Urine:
                                                                  2,565 mL
                                                                    720 mL
   Balance:
                                                                 -1,894 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa moist, oropharynx without erythema
   NECK: Supple, no LAD appreciated
   PULM: Rare bibasilar coarse crackles, dullness to percussion at both
   lung bases
   CARD: RR, nl S1, nl S2, II/VI holosystolic murmur, no chest pain
   elicited with palpation of chest wall
   ABD: BS+, soft, distended ventral hernia, tympanitic, non-tender, no
   rebound or guarding
   EXT: 3+ pitting edema of LE bilaterally with venous stasis changes and
   broken skin
   NEURO: Oriented to "[**Hospital3 **] Intensive Care", date, year, current
   president, most recent prior president. Able to recite days of week
   backward with fluidity. Also able to spell
WORLD
 backwards quickly
   without error.
   Labs / Radiology
   258 K/uL
   9.1 g/dL
   80 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.3 mEq/L
   21 mg/dL
   103 mEq/L
   127 mEq/L
   27.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2157-3-21**]  05:28 AM
                             [**2157-3-21**]  02:15 PM
                             [**2157-3-22**]  03:45 AM
                             [**2157-3-23**]  04:12 AM
   WBC
   9.9
   8.8
   8.0
   Hct
   27.9
   27.4
   27.5
   Plt
   [**Telephone/Fax (3) 6974**]
   Cr
   1.7
   1.8
   1.7
   1.5
   TropT
   <0.01
   <0.01
   Glucose
   83
   102
   72
   80
   Other labs: PT / PTT / INR:12.4/39.9/1.1, CK / CKMB /
   Troponin-T:70//<0.01, ALT / AST:17/30, Alk Phos / T Bili:109/0.4,
   Amylase / Lipase:/66, Albumin:3.3 g/dL, LDH:228 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   81 yo F with CAD s/p past PCI, CKD, hypertension, recent diagnosis of
   heart failure, was discharged from the hospital on [**2157-3-11**] after a
   presentation for chest pain. Presents again with chest pain, LE edema,
   and new finding of severe hyponatremia.
   # Hyponatremia:
   Sodium at presentation was 112. Most recent prior set of labs from
   discharge on [**2157-3-11**] revealed sodium of 135, which makes this an acute
   episode of hyponatremia. Sodium level rose to 115 on afternoon of [**3-21**]
   and was 119 @ 0400 this AM and then 124 @ 1000 this AM. Acute rise if
   slightly faster than we would like; however, given that her drop in
   sodium was acute since [**2157-3-11**], rise at this rate is not as
   concerning. We will continue to monitor and give back free water as
   needed to slow rate of rise. Likely a hypervolemic hyponatremia given
   findings of peripheral edema, pulmonary crackles, and pleural
   effusions. Asymptomatic from neurologic standpoint. Tremulousness has
   resolved. No more nausea since morning of [**3-21**]. No medication changes
   that would explain this acute drop in serum sodium. Most likely is
   multifactorial with predominant component being heart failure. Also
   likely to be exacerbated by acute kidney injury. Pseudohyponatremia
   ruled out at presentation. TSH was measured and was normal. Given
   hyponatremia in combination with hyperkalemia, we considered adrenal
   insufficiency in differential; however, AM cortisol yesterday was 19.6.
   - Discontinue hypertonic saline
   - Continue fluid restrict to 1 L daily
   - Serum sodium every six hours
   - Urine lytes every six hours
   - Measure serum osmolality
   - Appreciate ongoing nephrology input
   # Constipation / abdominal pain:
   Patient having normal bowel movements now and has resolved abdominal
   discomfort. Liver enzymes were normal. Lipase was slightly elevated at
   66. Greater than one week of constipation prior to presentation with
   only two days of normal bowel movements prior to presentation. Must
   keep in mind that loose BM morning of presentation to ED on [**2157-3-20**]
   may point to liquid stool around a fecal impaction.
   - Bowel regimen
   - Monitor stool output
   # Chest pain:
   Patient with a past history of anginal chest pain; however, she reports
   that chest pain at presentation this time was different. Recent
   presentation for chest pain, for which she ruled-out for MI with three
   sets of negative cardiac enzymes. Also had a low probability V/Q scan
   on [**2157-3-10**]. Since admission here she has had no chest pain and has had
   three sets of negative cardiac enzymes (trop <0.01).
   - Monitor on telemetry
   # Diastolic heart failure:
   By recent ECHO on [**2157-3-10**] has moderate LV diastolic dysfunction.
   Additionally had BNP of [**Numeric Identifier 6935**] on [**2157-3-9**] which has improved to BNP of
   5679 upon admission here.
   - Continue home metoprolol
   - Continue furosemide diuresis once rate of change of serum sodium is
   more stable
   # Chronic renal failure:
   Patient with baseline Cr of 1.8 - 2.3 per review of records. At this
   admission Cr is 1.7, which is stable from admission.
   - Continue to trend with correction of hyponatremia
   # Coronary artery disease / Hypertension / Hyperlipidemia:
   Attempting to rule out CAD as cause for current chest pain episode.
   - Continue aspirin, clopidogrel, amlodipine, metoprolol, atorvastatin
   ICU Care
   Nutrition: Cardiac diet, free water restricted to 1 L daily
   Glycemic Control: None needed at this time
   Lines:  20 Gauge - [**2157-3-21**] 01:11 AM (Will need additional access)
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: PPI
   Communication:  With patient and her husband
   [**Name (NI) 36**] status: FULL (addressed with patient at time of admission)
   Disposition: Ongoing ICU care

2157-03-23 12:06:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women with CAD, CRF, diastolic HF.  Presented wtih severe
   hyponatremia.  Na improved to 131.
   feels much better
   24 Hour Events:
 ULTRASOUND - At [**2157-3-22**] 10:45 AM
   Pt down for renal US
   Allergies:
   Oxybutynin
   dry mouth;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-3-23**] 08:30 AM
   Other medications:
   prilosec
   asa
   plavix
   lipitor
   colace
   lopressor
   norvasc
   senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2157-3-23**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 68 (55 - 75) bpm
   BP: 148/47(73) {142/35(64) - 180/63(108)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
                  Total In:
                                                                    671 mL
                                                                    250 mL
   PO:
                                                                    420 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                  1,090 mL
   Urine:
                                                                  2,565 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,894 mL
                                                                   -840 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : right>l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   258 K/uL
   80 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.3 mEq/L
   21 mg/dL
   103 mEq/L
   131 mEq/L
   27.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2157-3-21**]  05:28 AM
                             [**2157-3-21**]  02:15 PM
                             [**2157-3-22**]  03:45 AM
                             [**2157-3-23**]  04:12 AM
   WBC
   9.9
   8.8
   8.0
   Hct
   27.9
   27.4
   27.5
   Plt
   [**Telephone/Fax (3) 6974**]
   Cr
   1.7
   1.8
   1.7
   1.5
   TropT
   <0.01
   <0.01
   Glucose
   83
   102
   72
   80
   Other labs: PT / PTT / INR:12.4/39.9/1.1, CK / CKMB /
   Troponin-T:70//<0.01, ALT / AST:17/30, Alk Phos / T Bili:109/0.4,
   Amylase / Lipase:/66, Albumin:3.3 g/dL, LDH:228 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY):  Much improved and now
   autodiuresing.  Continue fluid restriction.
   Acute on chronic diastolic CHF:  Diuresing well
   HTN:  Better BP control as running slightly high
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-3-21**] 05:15 AM
   20 Gauge - [**2157-3-21**] 09:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes